US04126615
100 kg. of crystalline 3,4-dimethoxy-benzyl cyanide are hydrogenated in 310 1. of a 80 to 96% aqueous ethanol containing 9 to 12% of ammonia in the presence of 24 kg. of Raney-nickel catalyst pre-treated as described in Example 3 at 48°-60° C under a hydrogen overpressure of 8 to 10 atm. The catalyst is filtered off, the filtrate is evaporated and the residue is subjected to fractionation in vacuo. Thus 95,5 kg. of highly pure 3,4-dimethoxy-beta-phenyl-ethylamine are obtained, purity: nearly 100%. The mono-demethylated beta-phenyl-ethylamine derivative impurity is present at most in traces in such a small amount, which can not be detected by thin layer chromatography.

reactant | 3,4-dimethoxy-benzyl cyanide | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
reactant | ammonia | N | H3N
catalyst | Raney-nickel | [Ni] | Ni
solvent | ethanol | C(C)O | C2H6O
product | 3,4-dimethoxy-beta-phenyl-ethylamine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
